US04118511
2-(butanoylamino)-4-(1-naphthyloxy)butanol butyrate, described in Example 5, with ethyl chloride, followed by reduction, gives 1-ethoxy-N-butyl-N-ethyl-4-(1-naphthyloxy)-2-butanamine.

reactant | 2-(butanoylamino)-4-(1-naphthyloxy)butanol butyrate | C(CCC)(=O)OCC(CCOC1=CC=CC2=CC=CC=C12)NC(CCC)=O | C22H29NO4
reactant | ethyl chloride | C(C)Cl | C2H5Cl
product | 1-ethoxy-N-butyl-N-ethyl-4-(1-naphthyloxy)-2-butanamine | C(C)OCC(CCOC1=CC=CC2=CC=CC=C12)N(CC)CCCC | C22H33NO2
